US07230022B2
Part D: Preparation of ethyl (4aSR,8SR,8aSR)-decahydroisoquinoline-8-carboxylate
A solution of ethyl (4aRS,8SR,8aSR)-2-benzyl-1,2,3,4,4a,7,8,8a-octahydroisoquinoline-8-carboxylate (440 mg, 1.47 mmol) in methanol (10 mL) was treated with 10% palladium on charcoal (20 mg) and stirred for 16 hours under an atmosphere of hydrogen. The mixture was filtered, and the filtrate was concentrated to provide a colorless oil (305 mg, 98%). 1H NMR (300 MHz, CDCl3) δ4.09 (q, J=7 Hz, 2H), 3.07 (m, 1H), 2.94 (dd, J=12, 4 Hz, 1H), 2.60 (m, 2H), 2.25 (J=12, 11 Hz, 1H), 2.0-1.7 (m, 3H), 1.6-1.2 (m, 6H), 1.91 (t, J=7 Hz, 3H), 1.10 (m, 2H). Mass spec (ES+) m/z 212.4 (M+H+, 100%).

reactant | ethyl (4aRS,8SR,8aSR)-2-benzyl-1,2,3,4,4a,7,8,8a-octahydroisoquinoline-8-carboxylate | 1.47 mmol, 440 mg | C(C1=CC=CC=C1)N1CC2C(CC=CC2CC1)C(=O)OCC | C19H25NO2
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on charcoal | 20 mg | [Pd] | Pd
product | ethyl (4aSR,8SR,8aSR)-decahydroisoquinoline-8-carboxylate | 305 mg, 98% | C1NCCC2CCCC(C12)C(=O)OCC | C12H21NO2
